US08383639B2
2-Ethoxy-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-5-hydroxy-3-methylpyrimidin-4(3H)-one.
A yellow solution of 5-(benzyloxy)-2-ethoxy-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-3-methylpyrimidin-4(3H)-one (0.150 g, 0.3421 mmol) in TFA (5 mL) was stirred 6 h at room temperature. Then, the reaction mixture was concentrated and the resulting yellow solid was heated with 1:1 EtOH/H2O and filtered to afford the title compound (0.11 g, 97%) as pale yellow solid. 1HNMR (500 MHz, CDCl3) δ: 9.49 (1H, s), 7.30 (2H, dd, J=8.4, 5.4 Hz), 7.02 (2H, t, J=8.6 Hz), 4.52 (2H, q, J=7.0 Hz), 4.15 (2H, s), 3.49 (3H, s), 1.44 (3H, t, J=7.0 Hz). HRMS (M+H) calcd for C16H16N4O4F: 347.1156. found: 347.3845. Anal calcd for C16H15N4O4F: C, 55.49; H, 4.36; N, 16.17; F, 5.48. found: C, 55.14; H, 4.32; N, 15.66; F, 5.85.

reactant | 5-(benzyloxy)-2-ethoxy-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-3-methylpyrimidin-4(3H)-one | 0.3421 mmol, 0.150 g | C(C1=CC=CC=C1)OC=1C(N(C(=NC1C1=NC(=NO1)CC1=CC=C(C=C1)F)OCC)C)=O | C23H21FN4O4
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Ethoxy-6-(3-(4-fluorobenzyl)-1,2,4-oxadiazol-5-yl)-5-hydroxy-3-methylpyrimidin-4(3H)-one | 0.11 g, 97% | C(C)OC1=NC(=C(C(N1C)=O)O)C1=NC(=NO1)CC1=CC=C(C=C1)F | C16H15FN4O4
